US04258049
A mixture of 15.9 g. (0.1 mole) of 7-hydroxy-4-methylisoquinoline and 41.7 g. (0.125 mole) of triphenylphosphine dichloride is heated to 230° C. for four hours, cooled, and partitioned between chloroform and concentrated hydrochloric acid. The aqueous phase is neutralized with ammonium hydroxide and extracted with chloroform to yield 7-chloro-4-methylisoquinoline.

reactant | 7-hydroxy-4-methylisoquinoline | 0.1 mole | OC1=CC=C2C(=CN=CC2=C1)C | C10H9NO
reactant | triphenylphosphine dichloride | 0.125 mole | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-chloro-4-methylisoquinoline | ClC1=CC=C2C(=CN=CC2=C1)C | C10H8ClN
